US06313115B1
1-(Benzofurazan-5-ylcarbonyl)-4-hydroxypiperidine (840 mg, 3.40 mmol) was dissolved in dimethylformamide (12 mL) and treated with 60% sodium hydride (150 mg, 3.75 mmol) for 30 minutes. Methyl iodide (650 mg, 4.54 mmol) was added, and, after 3 hours at room temperature, the reaction mixture was further treated with the same quantities of sodium hydride and methyl iodide as above and allowed to stand for 16 hr. The reaction solution was diluted with water and product was extracted into ethyl acetate. The organic solution was washed with water and saturated sodium chloride and dried over MgSO4. The crude product was purified by decolorization with charcoal in ethanol, twice chromatographed on silica gel by elution with hexane/ethyl acetate (2:1), and finally by kugelrohr distillation at 125-140° C. to yield 1-(benzofurazan-5-ylcarbonyl)-4-methoxypiperidine (269 mg, 30%) as a pale yellow oil. IR: 1639, 1440, 1274, 1101, and 1089 cm−1. 1H NMR (500 MHz): δ 7.91 (1H, dm, J=9.2 Hz), 7.85 (1H, t, J=1.1 Hz), 7.43 (1H, dd, J=9.2 and 1.2 Hz), 3.90-4.05 (1H, m), 3.55-3.72 (2H, m), 3.53 (1H, sept, J=3.5 Hz), 3.38 (3H, s), 3.20-3.35 (1H, m), 1.90-2.02 (1H, m), 1.65-1.85 (2H, m), and −1.65 ppm (1H, m).

reactant | 1-(Benzofurazan-5-ylcarbonyl)-4-hydroxypiperidine | 3.40 mmol, 840 mg | N1=C2C(=NO1)C=C(C=C2)C(=O)N2CCC(CC2)O | C12H13N3O3
reactant | sodium hydride | 3.75 mmol, 150 mg | [H-].[Na+]
reactant | Methyl iodide | 4.54 mmol, 650 mg | CI | CH3I
solvent | dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(benzofurazan-5-ylcarbonyl)-4-methoxypiperidine | 269 mg, 30% | N1=C2C(=NO1)C=C(C=C2)C(=O)N2CCC(CC2)OC | C13H15N3O3
